Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Acute Kidney Injury
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year-old woman with a history of NASH cirrhosis c/b ascites 
on furosemide and spironolactone, history of SBP, and esophageal 
varices, currently on transplant list, who was sent to the ED by 
Dr. ___ her electrolyte check showed ___ -- 
creatinine 1.0 -> 1.7. Other than nausea and poor PO intake in 
the last 24 hours, she has no other symptoms -- no dysuria, 
fevers, chills, diarrhea. She had a recent similar admission for 
___ in the setting of a gastroenteritis, resolved with fluids 
and albumin. She states she has had similar symptoms in the 
past, last aforementioned episode occurring ___ months ago. 

Presentation is most consistent with pre-renal state -- history 
of poor PO intake, tacky mucous membranes on exam. Overnight she 
received her diuretic, and her kidney function worsened. 
 
Past Medical History:
HTN
NIDDMI
Cirrhosis (unknown etiology) c/b esophageal varices and SBP
 
Social History:
___
Family History:
Reviewed and noncontributory.

Mother with hypertension and hyperlipidemia. No known family 
history of gallbladder disease.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:
GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
BACK: No CVA tenderness.
ABDOMEN: Normal bowels sounds, mildly distended but nontender to
palpation
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+
bilaterally.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously. No asterixis
present 

DISCHARGE PHYSICAL EXAM:
===========================
PHYSICAL EXAM:
VS: 24 HR Data (last updated ___ @ 1110) 
Temp: 98.2 (Tm 98.2), BP: 94/58 (94-126/58-76), HR: 94 (90-95),
RR: 16 (___), O2 sat: 99% (95-99), O2 delivery: Ra, Wt: 145
lb/65.77 kg 
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: Warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
Admission Labs:
=======================
___ 08:00PM   GLUCOSE-160* UREA N-25* CREAT-1.2* SODIUM-137 
POTASSIUM-4.4 CHLORIDE-98 TOTAL CO2-23 ANION GAP-16
___ 08:11AM   LACTATE-1.9
___ 03:06AM   COMMENTS-GREEN TOP
___ 03:06AM   LACTATE-2.9*
___ 03:05AM   ___ PTT-39.3* ___
___ 02:00AM URINE  HOURS-RANDOM
___ 02:00AM URINE  UHOLD-HOLD
___ 02:00AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 02:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-4* PH-5.5 
LEUK-MOD*
___ 02:00AM URINE  RBC-4* WBC-16* BACTERIA-FEW* YEAST-NONE 
EPI-17
___ 02:00AM URINE  HYALINE-34*
___ 02:00AM URINE  MUCOUS-OCC*
___ 10:45PM   GLUCOSE-128* UREA N-30* CREAT-1.7* 
SODIUM-134* POTASSIUM-5.0 CHLORIDE-93* TOTAL CO2-22 ANION 
GAP-19*
___ 10:45PM   ALT(SGPT)-37 AST(SGOT)-62* ALK PHOS-205* TOT 
BILI-1.5
___ 10:45PM   cTropnT-<0.01
___ 10:45PM   ALBUMIN-4.5
___ 10:45PM   WBC-6.3 RBC-4.88 HGB-15.1 HCT-43.9 MCV-90 
MCH-30.9 MCHC-34.4 RDW-13.8 RDWSD-45.1
___ 10:45PM   NEUTS-60.1 ___ MONOS-14.4* EOS-3.0 
BASOS-0.6 IM ___ AbsNeut-3.79 AbsLymp-1.36 AbsMono-0.91* 
AbsEos-0.19 AbsBaso-0.04
___ 10:45PM   PLT COUNT-159
___ 03:20PM   UREA N-31* CREAT-1.4* SODIUM-138 
POTASSIUM-5.6* CHLORIDE-94* TOTAL CO2-22 ANION GAP-22*
___ 03:20PM   estGFR-Using this
___ 03:20PM   ALT(SGPT)-43* AST(SGOT)-67* ALK PHOS-236* TOT 
BILI-1.9*
___ 03:20PM   ALBUMIN-4.9
___ 03:20PM   WBC-6.3 RBC-4.96 HGB-15.1 HCT-46.0* MCV-93 
MCH-30.4 MCHC-32.8 RDW-13.8 RDWSD-46.8*
___ 03:20PM   PLT COUNT-190
___ 03:20PM   ___

Discharge Labs:
============================
___ 07:13AM BLOOD WBC-4.1 RBC-4.30 Hgb-12.9 Hct-38.4 MCV-89 
MCH-30.0 MCHC-33.6 RDW-14.1 RDWSD-45.9 Plt ___
___ 07:26AM BLOOD Glucose-130* UreaN-12 Creat-1.0 Na-141 
K-4.7 Cl-103 HCO3-24 AnGap-14
___ 07:26AM BLOOD ALT-46* AST-92* AlkPhos-186* TotBili-2.6*
___ 07:26AM BLOOD Calcium-10.8* Phos-3.4 Mg-1.9

Micro:
==================
___ 2:00 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

Imaging:
==================
CXR: IMPRESSION:  
No evidence of pneumonia. 

RUQ U/S:
IMPRESSION: 
1. Patent hepatic veins. 
2. Cirrhotic liver morphology without evidence of focal lesions 
or 
intra-abdominal ascites. 

 
Brief Hospital Course:
___ with NASH cirrhosis (MELD 17 on admission, 12 upon 
discharge) c/b prior ascites, esophageal varices, & SBP who came 
in with ___ (Cr 1.7 from baseline 1.0) in the setting of recent 
?gastroenteritis. ___ completely resolved with 75g 25% IV 
albumin challenge. By the time she was admitted her GI 
complaints had resolved as well, and her appetite was back to 
normal. She was monitored for 1 day, and then discharged off of 
her home diuretics, ___ and beta blocker given concern for poor 
renal perfusion I/s/o advanced liver disease. 

TRANSITIONAL ISSUES:
[] Dr. ___: f/u ___ Cr, BUN (and other MELD labs) that the 
patient will get drawn between discharge and liver f/u 
appointment
[] consider whether she needs resumption of Lasix/spironolactone 
later down the road (held for now as above given ___ and 
advanced cirrhosis)
[] stopped losartan I/s/o ___ and advanced cirrhosis (to our 
knowledge no hard cardiac indication to continue) 
[] reduced her home dose of metformin to 250mg BID I/s/o ___, to 
be uptitrated outpatient PRN 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 
2. Losartan Potassium 50 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 
4. Furosemide 40 mg PO DAILY 
5. Spironolactone 100 mg PO DAILY 
6. TraZODone 50 mg PO QHS:PRN sleep 
7. Nadolol 20 mg PO DAILY 
8. MetFORMIN (Glucophage) 500 mg PO BID 
9. Ciprofloxacin HCl 500 mg PO DAILY 

 
Discharge Medications:
1.  MetFORMIN (Glucophage) 250 mg PO BID  
2.  Atorvastatin 10 mg PO QPM  
3.  Ciprofloxacin HCl 500 mg PO DAILY  
4.  Omeprazole 20 mg PO DAILY  
5.  TraZODone 50 mg PO QHS:PRN sleep  
6. HELD- Furosemide 40 mg PO DAILY  This medication was held. Do 
not restart Furosemide until Dr. ___ you to restart
7. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until Dr. ___ 
___ you to restart
8. HELD- Nadolol 20 mg PO DAILY  This medication was held. Do 
not restart Nadolol until Dr. ___ you to restart
9. HELD- Spironolactone 100 mg PO DAILY  This medication was 
held. Do not restart Spironolactone until Dr. ___ 
you to restart
10.Outpatient Lab Work
ICD9 Code: ___ (___)
Please draw: Chem-10, ALT, AST, LDH, Tbili, ___
Please fax results to ___ (ATTN Dr. ___ 
at ___ 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute kidney injury
Non-alcoholic steatohepatitis cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at the ___ 
___.

Why did you come to the hospital?
You saw your outpatient liver doctor and your lab values related 
to your liver and kidneys had changed, so he sent you to the ED 
for treatment.

What did you receive in the hospital?
You were given fluids and albumin to help your liver and 
kidneys. Some of your medications were also stopped temporarily. 
Your labs improved and you felt well. 

What should you do once you leave the hospital?
- Please go to get your blood drawn (at the most convenient 
location to you) on ___ or ___. The results will be faxed 
to your liver doctor, who will call you if he wants you to 
change any medications. 
- Please take your medications as prescribed and go to your 
future appointments which are listed below.

We wish you all the best!
- Your ___ Care Team
 
Followup Instructions:
___